US07977351B2
A solution of 2-methyl-7H-furo[3,4-b]pyridin-5-one (1.41 g, 9.46 mmol) in dioxane (50 mL) is treated with selenium dioxide (1.2 g, 10.8 mmol) and the reaction mixture is heated at 100° C. for 3 h. Additional selenium dioxide (1.2 g, 10.8 mmol) is added at 3 and 6 hours and the reaction mixture is heated at 100° C. The reaction is heated at 100° C. for an additional 42 h. The reaction mixture is filtered through celite and washed with dioxane. The filtrate is concentrated under reduced pressure and subject to chromatography (silica gel, EtOAc/hexane). The high Rf product containing fractions are concentrated to give 5-Oxo-5,7-dihydro-furo[3,4-b]pyridine-2-carbaldehyde (1.23 g, 80%). The low Rf containing fractions are concentrated to give 5-Oxo-5,7-dihydro-furo[3,4-b]pyridine-2-carboxylic acid (159 mg, 9%).

reactant | 2-methyl-7H-furo[3,4-b]pyridin-5-one | 9.46 mmol, 1.41 g | CC1=CC=C2C(=N1)COC2=O | C8H7NO2
reactant | selenium dioxide | 10.8 mmol, 1.2 g | [Se](=O)=O | O2Se
reactant | selenium dioxide | 10.8 mmol, 1.2 g | [Se](=O)=O | O2Se
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 5-Oxo-5,7-dihydro-furo[3,4-b]pyridine-2-carbaldehyde | 1.23 g, 80% | O=C1OCC2=NC(=CC=C21)C=O | C8H5NO3
